US07592373B2
4.1.b. (2-chloro-4-trifluoromethylphenyl)propynoic acid
0.65 g (1.175 mmol) of ethyl (2-chloro-4-trifluoromethylphenyl)propynoate is dissolved in 20 mL of ethanol, combined with 2 mL of 2M sodium hydroxide solution, and stirred for 3 hours at ambient temperature. The reaction mixture is evaporated down, the residue is taken up in water, and extracted with ethyl acetate. The aqueous phase is combined with 2 mL of 1M hydrochloric acid and stirred for 1 hour at ambient temperature. Then it is extracted three times with ethyl acetate. The combined organic phases are dried over sodium sulfate. Yield: 0.14 g (48% of theory); C10H4ClF3O2 (M=248.59); calc.: molecular ion peak (M−H)−: 247/249; found: molecular ion peak (M−H)−: 247/249; Rf value: 0.09 (silica gel, petroleum ether/ethyl acetate (4:1)).

reactant | ethyl (2-chloro-4-trifluoromethylphenyl)propynoate | 1.175 mmol, 0.65 g | ClC1=C(C=CC(=C1)C(F)(F)F)C#CC(=O)OCC | C12H8ClF3O2
reactant | sodium hydroxide | 2M, 2 mL | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (2-chloro-4-trifluoromethylphenyl)propynoic acid | ClC1=C(C=CC(=C1)C(F)(F)F)C#CC(=O)O | C10H4ClF3O2
